US04943580
A mixture of 1.7 parts of 2-chloropyrimidine, 4.33 parts of 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineethanamine, 1.7 parts of sodium hydrogen carbonate and 40 parts of ethanol was stirred overnight at reflux temperature. The reaction mixture was evaporated and the residue was poured into water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in a mixture of ethanol and 2-propanone. The salt was filtered off and dried, yielding 4.97 parts (48.7%) of N-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2-pyrimidinamine ethanedioate(1:3); mp. 119.7° C. (compound 131).

reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
reactant | 4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidineethanamine | C(C)OCCN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCN | C18H29N5O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
product | N-[2-[4-[[3-(2-ethoxyethyl)-3H-imidazo[4,5-b]pyridin-2-yl]methyl]-1-piperidinyl]ethyl]-2-pyrimidinamine ethanedioate | 48.7% | C(C(=O)O)(=O)O.C(C)OCCN1C(=NC=2C1=NC=CC2)CC2CCN(CC2)CCNC2=NC=CC=N2 | InChI=1S/C22H31N7O.C2H2O4/c1-2-30-16-15-29-20(27-19-5-3-8-23-21(19)29)17-18-6-12-28(13-7-18)14-11-26-22-24-9-4-10-25-22;3-1(4)2(5)6/h3-5,8-10,18H,2,6-7,11-17H2,1H3,(H,24,25,26);(H,3,4)(H,5,6)
